US05834454
A solution of ethyl 5,6,7,8-tetrahydro-11-chloro-10-methoxy-8-oxo-4H-azocino [3,2,1-hi]indole-2-carboxylate (4.00 g, 11.8 mmol) in dichloromethane (80 ml) was cooled to -78° C., and boron tribromide (3.26 g, 13.0 mmol) was added dropwise. The reaction temperature was raised to -20° C. and the reaction mixture was stirred at -20° C. for 8 hours. The reaction mixture was poured into ice water and extracted three times with ethylacetate, and the extract solution was washed with a saturated aqueous ammonium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent:ethyl acetate/n-hexane= 1/9) to obtain 0.99 g of ethyl 5,6,7,8-tetrahydro-11-chloro-10-hydroxy-8-oxo-4H-azocino [3,2,1-hi]indole-2-carboxylate.

reactant | ethyl 5,6,7,8-tetrahydro-11-chloro-10-methoxy-8-oxo-4H-azocino [3,2,1-hi]indole-2-carboxylate | 11.8 mmol, 4.00 g | ClC1=C2C=C(N3C2=C(C=C1OC)C(CCCC3)=O)C(=O)OCC | C17H18ClNO4
reactant | boron tribromide | 13.0 mmol, 3.26 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | ethyl 5,6,7,8-tetrahydro-11-chloro-10-hydroxy-8-oxo-4H-azocino [3,2,1-hi]indole-2-carboxylate | 0.99 g | ClC1=C2C=C(N3C2=C(C=C1O)C(CCCC3)=O)C(=O)OCC | C16H16ClNO4
